US06417203B1
2-[3-Chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]-N-[(3-methyl-1H-indol-5-yl)methyl]acetamide
The title compound was prepared by a similar method to preparation 45 from 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetic acid [see preparation 72] and (3-methyl-1H-indol-5-yl)methylamine (preperation 36) to afford the product as a white solid, (14%). LRMS: m/z=511 (M+).

reactant | 2-[3-chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]acetic acid | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCCC1)CC1CC1)=O)CC(=O)O)C | C17H25ClN4O3
reactant | (3-methyl-1H-indol-5-yl)methylamine | CC1=CNC2=CC=C(C=C12)CN | C10H12N2
product | 2-[3-Chloro-5-({[(2R)-1-(cyclopropylmethyl)piperidinyl]methyl}amino)-2-methyl-6-oxo-1(6H)-pyrazinyl]-N-[(3-methyl-1H-indol-5-yl)methyl]acetamide | ClC1=C(N(C(C(=N1)NC[C@@H]1N(CCCC1)CC1CC1)=O)CC(=O)NCC=1C=C2C(=CNC2=CC1)C)C | C27H35ClN6O2
